US04758501
(a) 4-Chloro-3-nitrophenyl 3,5-di-t-butyl-4-hydroxybenzoate
3,5-Di-t-butyl-4-hydroxybenzoyl chloride (56.2 g; 0.209 mole) in tetrahydrofuran (70 ml) was added with stirring to a solution of 4-chloro-3-nitrophenol (36.3 g; 0.209 mole) in pyridine (170 ml) at 0° C. over 20 minutes. The reaction mixture was stirred at room temperature for 22 hours and poured into an ice cold solution of 10M-hydrochloric acid (350 ml) and water (1400 ml). The mixture was extracted into ether (500 ml) and the ethereal extract washed successively with 2M-hydrochloric acid (150 ml), 2% sodium carbonate solution (4×150 ml) and water (2×100 ml). The extract was dried and the ether removed to give a dark orange oil (90 g). This material was chromatographed (silica) eluting with 4:1 hexane:ethyl acetate, to give the product (60.6 g; 72%) as a yellow viscous oil.

reactant | 3,5-Di-t-butyl-4-hydroxybenzoyl chloride | 0.209 mole, 56.2 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | 4-chloro-3-nitrophenol | 0.209 mole, 36.3 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | hydrochloric acid | 350 ml | Cl | ClH
reactant | water | 1400 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-3-nitrophenyl 3,5-di-t-butyl-4-hydroxybenzoate | 90 g | C(C)(C)(C)C=1C=C(C(=O)OC2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C21H24ClNO5
